** sch_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/sw/b9_sw_chop_tb_basic.sch
**.subckt b9_sw_chop_tb_basic
x1 vdd vtest vss vcm vdd b9_sw_chop
V1 vcm vss {vcm}
I0 vss vtest DC 0 AC 1 0
V2 vdd vss 3.3
V3 vss 0 0
**** begin user architecture code

.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice cap_mim
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice moscap_typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice mimcap_typical
.include /foss/pdks/gf180mcuD/libs.ref/gf180mcu_fd_sc_mcu7t5v0/spice/gf180mcu_fd_sc_mcu7t5v0.spice


.param vcm=2
.ac dec 1000 1 10G

**** end user architecture code
**.ends

* expanding   symbol:  xschem/sw/b9_sw_chop.sym # of pins=5
** sym_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/sw/b9_sw_chop.sym
** sch_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/sw/b9_sw_chop.sch
.subckt b9_sw_chop vdd va vss vb en
*.iopin vdd
*.iopin vss
*.iopin en
*.iopin va
*.iopin vb
XM1 vb en va vss nfet_03v3 L=0.28u W=9.6u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.end
